US07544697B2
Under a nitrogen atmosphere, 1-ethyl-5-(2-hydroxy-2-methylpropyl)4-iodo-1H-pyrazole-3-carbonitrile (900 mg, 2.81 mmol), propargyltrimethylsilane (0.8 mL, 5.6 mmol), copper(I) iodide (107 mg, 0.562 mmol), dichlorobis(triphenylphosphine)palladium(II) (197 mg, 0.281 mmol), triethylamine (1.2 mL, 8.4 mmol) and acetonitrile (14 mL) were combined and then heated at reflux for five hours. The reaction mixture was cooled to ambient temperature, diluted with ethyl acetate, and then filtered through a layer of silica gel. The filtrate was concentrated under reduced pressure. The residue was purified by chromatography on a HORIZON HPFC system (40+M cartridge, eluting with a gradient of 0 to 80% ethyl acetate in hexanes) to provide 1-ethyl-5-(2-hydroxy-2-methylpropyl)4-(3-trimethylsilylprop-1-ynyl)-1H-pyrazole-3-carbonitrile as a yellow oil.

reactant | 1-ethyl-5-(2-hydroxy-2-methylpropyl)4-iodo-1H-pyrazole-3-carbonitrile | 2.81 mmol, 900 mg | C(C)N1N=C(C(=C1CC(C)(C)O)I)C#N | C10H14IN3O
reactant | propargyltrimethylsilane | 5.6 mmol, 0.8 mL | C(C#C)[Si](C)(C)C | C6H12Si
reactant | triethylamine | 8.4 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 14 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.562 mmol, 107 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.281 mmol, 197 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-ethyl-5-(2-hydroxy-2-methylpropyl)4-(3-trimethylsilylprop-1-ynyl)-1H-pyrazole-3-carbonitrile | C(C)N1N=C(C(=C1CC(C)(C)O)C#CC[Si](C)(C)C)C#N | C16H25N3OSi
